US06552068B1
Sodium iodide (27.37 g, 182.58 mmol) was added to a solution of 1-methanesulfonyloxy-6,6,7,7,7-pentafluoroheptane (17.3 g, 60.86 mmol) in acetone (500 ml), followed by heating under reflux for 12 hours. Water was added to the reaction mixture, which was then extracted twice with ether. The combined organic layers were washed with 1% aqueous sodium thiosulfate and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. The solvent was distilled off to give 1-iodo-6,6,7,7,7-pentafluoroheptane (16.5 g, Yield 86%).

reactant | Sodium iodide | 182.58 mmol, 27.37 g | [I-].[Na+]
reactant | 1-methanesulfonyloxy-6,6,7,7,7-pentafluoroheptane | 60.86 mmol, 17.3 g | CS(=O)(=O)OCCCCCC(C(F)(F)F)(F)F | C8H13F5O3S
reactant | Water | O | H2O
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 1-iodo-6,6,7,7,7-pentafluoroheptane | 16.5 g, Yield 86% | ICCCCCC(C(F)(F)F)(F)F | C7H10F5I
